** sch_path: /foss/designs/Onchip_CurRefGen/designs/libs/current_reference_generator_v2/xschem/current_reference_generator_v2.sch
.subckt current_reference_generator_v2 VSS VDD Vref Vrefp Vrefn Iref1n Iref3n Iref1p Iref3p Vres Iref2n Iref2p
*.PININFO Vref:I VDD:B VSS:B Vrefp:B Vrefn:B Iref1n:B Iref3n:B Iref1p:B Iref3p:B Vres:B Iref2n:B Iref2p:B
x1 Vrefp Vres Vref Vref VDD VSS net1 error_amplifier_N_input_v4
x2 net1 Vres VDD Vrefp VSS Vrefn Iref1n Iref3n Iref1p Iref3p Iref2n Iref2p current_reference_second_stage_v2
.ends

* expanding   symbol:  libs/error_amplifier_N_input_v4/xschem/error_amplifier_N_input_v4.sym # of pins=7
** sym_path: /foss/designs/Onchip_CurRefGen/designs/libs/error_amplifier_N_input_v4/xschem/error_amplifier_N_input_v4.sym
** sch_path: /foss/designs/Onchip_CurRefGen/designs/libs/error_amplifier_N_input_v4/xschem/error_amplifier_N_input_v4.sch
.subckt error_amplifier_N_input_v4 Vout V+ V- Vref VDD VSS Vcomn
*.PININFO V+:I Vout:B V-:I Vref:I VDD:B VSS:B Vcomn:B
* noconn #net1
x1 VbiasP2 VbiasN2 VbiasN1 Vout V+ V- VDD VSS Vcomn error_amplifier_N_input_core_v4
x2 VbiasN1 VbiasN2 VbiasP2 VDD VSS Vref net1 error_amplifier_N_input_bias_v4
.ends


* expanding   symbol:  libs/current_reference_second_stage_v2/xschem/current_reference_second_stage_v2.sym # of pins=12
** sym_path: /foss/designs/Onchip_CurRefGen/designs/libs/current_reference_second_stage_v2/xschem/current_reference_second_stage_v2.sym
** sch_path: /foss/designs/Onchip_CurRefGen/designs/libs/current_reference_second_stage_v2/xschem/current_reference_second_stage_v2.sch
.subckt current_reference_second_stage_v2 Vcomn Vres VDD Vrefp VSS Vrefn Iref1n Iref3n Iref1p Iref3p Iref2n Iref2p
*.PININFO VDD:B VSS:B Vrefp:B Vrefn:B Iref1n:B Iref3n:B Iref1p:B Iref3p:B Vres:B Vcomn:B Iref2p:B Iref2n:B
M6 Vrefn Vrefn net9 VSS nfet_03v3 L=2u W=4u nf=1 m=2
M5 Vcomn Vres Vcomn Vcomn pfet_03v3 L=5u W=5u nf=1 m=60
M1 net1 Vrefp VDD VDD pfet_03v3 L=2u W=2u nf=1 m=2
M2 net2 Vrefp VDD VDD pfet_03v3 L=2u W=2u nf=1 m=2
M3 net3 Vrefp VDD VDD pfet_03v3 L=2u W=2u nf=1 m=2
M4 net5 Vrefp VDD VDD pfet_03v3 L=2u W=2u nf=1 m=50
M7 Iref1n Vrefn net8 VSS nfet_03v3 L=2u W=4u nf=1 m=2
M8 Iref3n Vrefn net6 VSS nfet_03v3 L=2u W=4u nf=1 m=50
M9 net4 Vrefp VDD VDD pfet_03v3 L=2u W=2u nf=1 m=20
M10 Iref2n Vrefn net7 VSS nfet_03v3 L=2u W=4u nf=1 m=20
M11 Vres Vrefp net1 VDD pfet_03v3 L=2u W=2u nf=1 m=2
M12 Vrefn Vrefp net2 VDD pfet_03v3 L=2u W=2u nf=1 m=2
M13 Iref1p Vrefp net3 VDD pfet_03v3 L=2u W=2u nf=1 m=2
M14 Iref3p Vrefp net5 VDD pfet_03v3 L=2u W=2u nf=1 m=50
M15 Iref2p Vrefp net4 VDD pfet_03v3 L=2u W=2u nf=1 m=20
M16 net9 Vrefn VSS VSS nfet_03v3 L=2u W=4u nf=1 m=2
M17 net8 Vrefn VSS VSS nfet_03v3 L=2u W=4u nf=1 m=2
M18 net6 Vrefn VSS VSS nfet_03v3 L=2u W=4u nf=1 m=50
M19 net7 Vrefn VSS VSS nfet_03v3 L=2u W=4u nf=1 m=20
M20 VDD VDD VDD VDD pfet_03v3 L=2u W=2u nf=1 m=192
M21 VSS VSS VSS VSS nfet_03v3 L=2u W=4u nf=1 m=180
M22 VSS VDD VSS VSS nfet_03v3 L=2u W=4u nf=1 m=16
.ends


* expanding   symbol:  libs/error_amplifier_N_input_core_v4/xschem/error_amplifier_N_input_core_v4.sym # of pins=9
** sym_path: /foss/designs/Onchip_CurRefGen/designs/libs/error_amplifier_N_input_core_v4/xschem/error_amplifier_N_input_core_v4.sym
** sch_path: /foss/designs/Onchip_CurRefGen/designs/libs/error_amplifier_N_input_core_v4/xschem/error_amplifier_N_input_core_v4.sch
.subckt error_amplifier_N_input_core_v4 VbiasP2 VbiasN2 VbiasN1 Vout V+ V- VDD VSS Vcomn
*.PININFO VbiasN2:I VDD:B VbiasP2:I VbiasN1:I V+:I V-:I VSS:B Vcomn:B Vout:B
M4 Vdm6 Val VDD VDD pfet_03v3 L=1u W=2u nf=1 m=1
M3 Vdm5 Val VDD VDD pfet_03v3 L=1u W=2u nf=1 m=1
M5 Val VbiasP2 Vdm5 VDD pfet_03v3 L=1u W=2u nf=1 m=2
M6 Vout VbiasP2 Vdm6 VDD pfet_03v3 L=1u W=2u nf=1 m=2
M9 net1 VbiasN1 VSS VSS nfet_03v3 L=2u W=2u nf=1 m=2
M8 Vout VbiasN2 Vcomn VSS nfet_03v3 L=2u W=2u nf=1 m=2
M7 Val VbiasN2 net1 VSS nfet_03v3 L=2u W=2u nf=1 m=2
M10 Vcomn VbiasN1 VSS VSS nfet_03v3 L=2u W=2u nf=1 m=2
M15 VDD VDD VDD VDD pfet_03v3 L=1u W=2u nf=1 m=22
M13 VSS VSS VSS VSS nfet_03v3 L=4u W=2u nf=1 m=50
M12 VSS VSS VSS VSS nfet_03v3 L=2u W=2u nf=1 m=70
M1 Vdm6 V- net2 VSS nfet_03v3 L=4u W=2u nf=1 m=30
M2 Vdm5 V+ net2 VSS nfet_03v3 L=4u W=2u nf=1 m=30
M11 net2 VbiasN1 VSS VSS nfet_03v3 L=2u W=2u nf=1 m=20
.ends


* expanding   symbol:  libs/error_amplifier_N_input_bias_v4/xschem/error_amplifier_N_input_bias_v4.sym # of pins=7
** sym_path: /foss/designs/Onchip_CurRefGen/designs/libs/error_amplifier_N_input_bias_v4/xschem/error_amplifier_N_input_bias_v4.sym
** sch_path: /foss/designs/Onchip_CurRefGen/designs/libs/error_amplifier_N_input_bias_v4/xschem/error_amplifier_N_input_bias_v4.sch
.subckt error_amplifier_N_input_bias_v4 VbiasN1 VbiasN2 VbiasP2 VDD VSS Vref VbiasP1
*.PININFO Vref:I VbiasN1:B VbiasN2:B VDD:B VbiasP2:B VSS:B VbiasP1:B
M1 VbiasN2 VbiasN2 net2 VSS nfet_03v3 L=2u W=0.5u nf=1 m=1
M2 VbiasP1 VbiasP1 VDD VDD pfet_03v3 L=2u W=1u nf=1 m=1
M3 VbiasP1 Vref net1 VSS nfet_03v3 L=2u W=1u nf=1 m=1
M4 VbiasN2 VbiasP1 VDD VDD pfet_03v3 L=2u W=1u nf=1 m=1
M5 VbiasN1 VbiasP1 VDD VDD pfet_03v3 L=2u W=1u nf=1 m=1
M6 net6 VbiasP2 VDD VDD pfet_03v3 L=2u W=1u nf=1 m=1
M7 VbiasP2 VbiasP2 net6 VDD pfet_03v3 L=2u W=1u nf=1 m=1
M8 net7 net8 VDD VDD pfet_03v3 L=2u W=1u nf=1 m=1
M9 net8 VbiasP2 net7 VDD pfet_03v3 L=2u W=1u nf=1 m=1
M10 net10 VbiasN1 VSS VSS nfet_03v3 L=2u W=2u nf=1 m=16
M11 VbiasN1 VbiasN2 net3 VSS nfet_03v3 L=2u W=0.5u nf=1 m=1
M12 VbiasP2 VbiasN2 net4 VSS nfet_03v3 L=2u W=0.5u nf=1 m=1
M13 net8 VbiasN2 net9 VSS nfet_03v3 L=2u W=0.5u nf=1 m=1
M14 net2 VbiasN2 VSS VSS nfet_03v3 L=2u W=0.5u nf=1 m=1
M15 net3 VbiasN1 net11 VSS nfet_03v3 L=2u W=2u nf=1 m=16
M16 net4 VbiasN1 net5 VSS nfet_03v3 L=2u W=2u nf=1 m=16
M17 net9 VbiasN1 net10 VSS nfet_03v3 L=2u W=2u nf=1 m=16
M18 net1 Vref VSS VSS nfet_03v3 L=2u W=1u nf=1 m=1
M19 net5 VbiasN1 VSS VSS nfet_03v3 L=2u W=2u nf=1 m=16
M20 net11 VbiasN1 VSS VSS nfet_03v3 L=2u W=2u nf=1 m=16
M21 VSS VSS VSS VSS nfet_03v3 L=2u W=0.5u nf=1 m=22
M22 VSS VSS VSS VSS nfet_03v3 L=2u W=2u nf=1 m=104
M23 VSS VSS VSS VSS nfet_03v3 L=2u W=1u nf=1 m=10
M24 VDD VDD VDD VDD pfet_03v3 L=2u W=1u nf=1 m=32
.ends

